US07307076B2
c) 7-acetyl-5-benzyloxy-3H-benzoxazol-2-one
52 g (0.53 mol) phosgene are piped into a solution of 121 g (0.47 mol) 1-(3-amino-5-benzyloxy-2-hydroxy-phenyl)-ethanone in 800 mL pyridine at 20 to 40° C. The reaction mixture is heated to 50° C. for 2 hours, then poured onto ice and acidified with conc. hydrochloric acid. A reddish-brown solid is isolated which is repeatedly recrystallised from ethanol with the addition of activated charcoal.

reactant | phosgene | 0.53 mol, 52 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-(3-amino-5-benzyloxy-2-hydroxy-phenyl)-ethanone | 0.47 mol, 121 g | NC=1C(=C(C=C(C1)OCC1=CC=CC=C1)C(C)=O)O | C15H15NO3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 800 mL | N1=CC=CC=C1 | C5H5N
product | 7-acetyl-5-benzyloxy-3H-benzoxazol-2-one | C(C)(=O)C1=CC(=CC=2NC(OC21)=O)OCC2=CC=CC=C2 | C16H13NO4
